US04093446
A solution of 2-chloro-α,α,α-trifluoro-p-tolyl-3-(1-carbethoxyethoxy)-4-nitrophenyl ether (17.32 g, 0.04 mole) in dry ether (500 ml) is treated at -10° C with a suspension of lithium aluminum hydride (1.9 g) in ether (approximately 100 ml) added with stirring over ten seconds. The termperature increases to about 0° to 10° C and after a total of 45 seconds, the reaction mixture is quenched by pouring, with stirring, onto ice/dilute sulfuric acid. The ether phase is washed with water, dried, filtered through activated silica gel, and the solvent removed to give 2-chloro-α,α,α-trifluoro-p-tolyl-3-(1-hydroxymethylethoxy)-4-nitrophenyl ether as a dark oil, yield 14 g.

reactant | 2-chloro-α,α,α-trifluoro-p-tolyl-3-(1-carbethoxyethoxy)-4-nitrophenyl ether | 0.04 mole, 17.32 g | ClC1=C(C=CC(C1OC(C)C(=O)OCC)([N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)OC1=C(C(C(C=C1)(C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-])OC(C)C(=O)OCC)Cl | C36H32Cl2F6N2O11
reactant | lithium aluminum hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | approximately 100 ml | CCOCC | C4H10O
product | 2-chloro-α,α,α-trifluoro-p-tolyl-3-(1-hydroxymethylethoxy)-4-nitrophenyl ether | ClC1=C(C=CC(C1OC(C)CO)([N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F)OC1=C(C(C(C=C1)(C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-])OC(C)CO)Cl | C32H28Cl2F6N2O9
